US05240943
N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-aminopiperidine
A solution of N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]acetamide (3.3 g, 10.9 mmol) in 1.2N hydrochloric acid (35 ml) was heated on a steam bath for 16 h. The reaction mixture was cooled and neutralized with 50% sodium hydroxide solution (pH 12). The basic aqueous solution was extracted with ethyl acetate. The organic extracts were washed with distilled water, dried (Na2SO4), filtered and evaporated in vacuo to afford the title compound (2.85 g, 100%) as an oily gum.

reactant | N-[1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-piperidinyl]acetamide | 10.9 mmol, 3.3 g | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)NC(C)=O | C18H26N2O2
reactant | sodium hydroxide | pH 12 | [OH-].[Na+]
solvent | hydrochloric acid | 1.2N, 35 ml | Cl | ClH
product | 1-[2-(3,4-dihydro-2H-1-benzopyran-4-yl)ethyl]-4-aminopiperidine | 2.85 g, 100% | O1CCC(C2=C1C=CC=C2)CCN2CCC(CC2)N | C16H24N2O
